US04576933
1-Octadecyl-sn-glycerol
According to the procedure of the reference [FEBS Letters, Vol. 116, 161 (1980)], D-mannitol was used as a starting material to give 25 g of the desired compound (needles) through 1,2-isopropylidene-sn-glycerol.

reactant | D-mannitol | C([C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H14O6
reactant | 1,2-isopropylidene-sn-glycerol | CC1(OC[C@@H](O1)CO)C | C6H12O3
product | 1-Octadecyl-sn-glycerol | 25 g | C(CCCCCCCCCCCCCCCCC)OC[C@@H](O)CO | C21H44O3
